US05739333
To a solution of 4,6-dichloro-5-(4-methylphenyl)pyrimidine (4.14 g) in ether (20 ml) is added 27% ammonia in methanol solution (30 ml), and the mixture is reacted at room temperature for three days in a sealed tube. The mixture is evaporated under reduced pressure to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; hexane:ethyl acetate=10:1~ethyl acetate only) to give 4-amino-6-chloro-5-(4-methyl-phenyl)pyrimidine (1.89 g).

reactant | 4,6-dichloro-5-(4-methylphenyl)pyrimidine | 4.14 g | ClC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C11H8Cl2N2
reactant | ammonia | N | H3N
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
product | 4-amino-6-chloro-5-(4-methyl-phenyl)pyrimidine | 1.89 g | NC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C11H10ClN3
